US09328116B2
Synthesis of 3-[4-chloro-3-(1H-imidazol-2-yl)-5-methylpyrazol-1-yl]-1-[1-(4-fluorophenyl)-5-isopropylpyrazol-4-yl]pyrrolidin-2-one
A mixture of 3-[4-chloro-3-(4,5-dihydro-1H-imidazol-2-yl)-5-methylpyrazol-1-yl]-1-[1-(4-fluorophenyl)-5-isopropylpyrazol-4-yl]pyrrolidin-2-one (0.041 g, 0.087 mmol) and Dess-Martin periodinane (0.150 g, 0.35 mmol) in DMSO (2.0 mL) was stirred at 80° C. for 1.5 hr. The mixture was then cooled to room temperature, quenched with sat. aq. NaHCO3 (50 mL), and extracted with EtOAc (50 mL). The organic layer was separated, dried over anhydrous sodium sulfate, concentrated in vacuo and purified by reverse phase HPLC (C18 column, acetonitrile-H2O with 0.1% TFA as eluent) to yield the title compound (0.025 g, TFA salt, 50%). 1H NMR (TFA salt) (400 MHz, CDCl3) δ 7.62 (s, 1H), 7.35 (dd, J=8.4, 4.8 Hz, 2H), 7.16 (m, 4H), 5.15 (dd, J=8.6, 8.6 Hz, 1H), 4.02 (m, 1H), 3.82 (m, 1H), 3.05 (m, 1H), 2.97 (septet, J=7.0 Hz, 1H), 2.35 (s, 3H), 2.70 (m, 1H), 1.18 (d, J=6.8 Hz, 3H), 1.14 (d, J=6.8 Hz, 3H); MS: (ES) m/z calculated for C23H23ClFN7O (free form) [M+H]+ 468.1. found 468.1.

reactant | 3-[4-chloro-3-(4,5-dihydro-1H-imidazol-2-yl)-5-methylpyrazol-1-yl]-1-[1-(4-fluorophenyl)-5-isopropylpyrazol-4-yl]pyrrolidin-2-one | 0.087 mmol, 0.041 g | ClC=1C(=NN(C1C)C1C(N(CC1)C=1C=NN(C1C(C)C)C1=CC=C(C=C1)F)=O)C=1NCCN1 | C23H25ClFN7O
reactant | Dess-Martin periodinane | 0.35 mmol, 0.150 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DMSO | 2.0 mL | CS(=O)C | C2H6OS
product | 3-[4-chloro-3-(1H-imidazol-2-yl)-5-methylpyrazol-1-yl]-1-[1-(4-fluorophenyl)-5-isopropylpyrazol-4-yl]pyrrolidin-2-one | 0.025 g, 50% | ClC=1C(=NN(C1C)C1C(N(CC1)C=1C=NN(C1C(C)C)C1=CC=C(C=C1)F)=O)C=1NC=CN1 | C23H23ClFN7O
